US07622583B2
4-Chloro-N-[5-chloro-2-(2-methyl-pyridine-3-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
The title compound was prepared by procedure analogous to that described in Example 29 using N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide and N-methoxy-2, N-dimethyl-nicotinamide. 1H NMR: (400 MHz, CDCl3) δ 8.61 (m, 1 H), 8.26 (m, 1 H), 8.20 (m, 1 H), 8.17 (m, 1 H), 8.04-8.01 (m, 1 H), 7.67 (d, 1 H), 7.50 (m, 1 H), 7.18 (m, 1 H), 2.41 (s, 3 H). MS: (M+H)/z=490.0.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | N-methoxy-2, N-dimethyl-nicotinamide | CON(C(C1=C(N=CC=C1)C)=O)C | C9H12N2O2
product | 4-Chloro-N-[5-chloro-2-(2-methyl-pyridine-3-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)C=1C(=NC=CC1)C)C(F)(F)F | C19H12Cl2F3N3O3S
